US07153964B2
2-(4-Sulphamoylanilino)-4-(2-cyanoanilino)-5-chloropyrimidine
2,5-Dichloro4-(2-cyanoanilino)pyrimidine (265 mg, 1.00 mmol) was dissolved in n-butanol (1 ml) and sulphanilamide (207 mg, 1.20 mmol) was added. The resulting suspension was heated at reflux for 2 hours and allowed to cool to ambient temperature. The reaction mixture was then basified using methanolic ammonia and evaporated onto silica. The residue was purified by column chromatography eluting with 0–15% 2.0M methanolic ammonia solution in dichloromethane to afford a solid product (42.6 mg). NMR (303.1K): 7.09 (2H, s), 7.41–7.59 (5H, m), 7.65 (1H, d), 7.74–7.86 (1H, m), 7.94 (1H, d 8.25 (1H, s), 9.46 (1H, s), 9.78 (1H, s); MS (M+H)+: 401, 403.

reactant | 2,5-Dichloro4-(2-cyanoanilino)pyrimidine | 1.00 mmol, 265 mg | ClC1=NC=C(C(=N1)NC1=C(C=CC=C1)C#N)Cl | C11H6Cl2N4
reactant | sulphanilamide | 1.20 mmol, 207 mg | S(=O)(C1=CC=C(C=C1)N)(=O)N | C6H8N2O2S
reactant | ammonia | N | H3N
solvent | n-butanol | 1 ml | C(CCC)O | C4H10O
product | 2-(4-Sulphamoylanilino)-4-(2-cyanoanilino)-5-chloropyrimidine | 42.6 mg | S(N)(=O)(=O)C1=CC=C(NC2=NC=C(C(=N2)NC2=C(C=CC=C2)C#N)Cl)C=C1 | C17H13ClN6O2S
